US04439604
A mixture of 3 g of 4-chloro-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine, 3 ml of methanol, and 20 ml of liquid ammonia is placed in a stainless steel reactor and heated at 100° C. for 5 hours. The ammonia is allowed to evaporate and the residue, after evaporation of the methanol, is distributed between ethyl acetate and water. The aqueous layer is reextracted with ethyl acetate and the dried (MgSO4) ethyl acetate solution is evaporated in vacuo to provide 2.6 g of 7-(2,3,5tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine as a crude yellow syrup. Chromatography of this material over silica gel with ethyl acetate provides 2.6 g of pure product as a colorless syrup.

reactant | 4-chloro-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | 3 g | ClC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C32H30ClN3O4
reactant | ammonia | N | H3N
solvent | methanol | 3 ml | CO | CH4O
product | 7-(2,3,5tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 2.6 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)N1C=CC2=C1N=CN=C2N | C32H32N4O4
